spice test 
* 1-diode circuit under 2-tone excitation
* "t" transmission line included  
* large LO signal
*
*
*
*




* distof1=15 → V_peak=2*15=30V; sin() amplitude updated to match
vs  1 0  ac 1v sin (0 30 100Meg 0 0) distof1 15 distof2 0.2
d1  1 2 sd
t1  2 0 out 0 z0=50 f=100MEG nl=0.5 

rl  out 0  1k


.model sd d is=1e-9 tt=0 m=0.5

.ac dec 5 10 10k 
.tran 50u 5m

.hb f1=100e6 f2=110e6 
+ 0 0 0 1 
+ 1 -1 1 0 1 1 
+ 2 -1 2 0 2 1 
+ 3 -1 3 0 3 1 
+ 4 -1 4 0 4 1 
+ 5 -1 5 0 5 1 
+ 6 0 7 0

.hb_options epsiw=1.e-6 epssol=1.e-12 epsdu=1.e-9 limit=50


.end
