spice test 4-diode bridge circuit 
* 4-diode circuit under 2-tone excitation
* "t" transmission line included  
* large LO signal
*
*
*
*


* HBFree V_peak = 2 * distof1  (normalization of source model after fix)
* ngspice uses sin() amplitude directly.
* Rule: distof1 = sin_amplitude / 2   to keep both simulators at same drive level.
* sin() peak = 21.21 V  →  distof1 = 21.21 / 2 = 10.606
vs  1 0  ac 1v sin (0 21.21 100Meg 0 0)
+              distof1 10.606

*t1  1 0 2 0 z0=50 f=100MEG nl=0.5 
rr 1 2 2

d1 2 3 sd
d2 4 2 sd
d3 0 3 sd
d4 4 0 sd

rl  3 4  1k


.model sd d is=1e-9 tt=0 m=0.5

* .ac dec 5 10 10k 
.tran 0.2n 500n 0 0.2n

.hb f1=100e6 f2=0 
+ 0 0 1 0 2 0 3 0 4 0 5 0  
+ 6 0 7 0 8 0 9 0 10 0 
+ 11 0 12 0 13 0 14 0 15 0 
+ 16 0 17 0 18 0 19 0  

.hb_options epsiw=1.e-6 epssol=1.e-12 epsdu=1.e-9 limit=50


.end
